US07192956B2
To a solution of 1-methyl-1H-pyrrole-2-carbonitrile (4.1 g, 35 mmol) and triisopropylborate (8.9 mL, 38.5 mmol) in THF (80 mL) at 0° C. was added lithium diisopropylamide (22.8 mL, 45.5 mmol). The reaction mixture was allowed to warm to room temperature. Upon completion by TLC, the reaction was added dropwise to a 65° C. solution of 6-bromo-4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (2.0 g, 7.0 mmol), potassium carbonate (2.9 g, 21 mmol) dissolved in (25 mL water), and tetrakistriphenylphosphine palladium (0) (0.4 g, 0.35 mmol) in tetrahydrofuran (20 mL). Upon completion by TLC of the reaction, it was poured into a saturated solution of ammonium chloride (200 mL), extracted with ethyl acetate (100 mL), dried with magnesium sulfate, and concentrated. Trituration of the residue with ethyl acetate/dichloromethane gave 5-(4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile (1.2 g, 55%) as an off-white solid. 1H NMR (DMSO-d6): δ10.26 (s, 1H), 7.37 (d, 1H, J=8.2, 1.6 Hz), 7.31 (d, 1H, J=1.8 Hz), 7.03 (d, 1H, J=4.0 Hz), 6.96 (d, 1H, J=8.2 Hz), 6.32 (d, 1H, J=4.0 Hz), 3.69 (s, 3H), 2.02 (m, 2H, J=7.3 Hz), 1.88 (m, 2H, J=7.3 Hz), 0.78 (t, 6H, J=7.3 Hz). MS (ESI) m/z 310 ([M+H]+); MS (ESI) m/z 308 ([M−H]−). HRMS: calcd for C18H19N3O2, 309.1477; found (ESI_FT), 310.15488;

reactant | 1-methyl-1H-pyrrole-2-carbonitrile | 35 mmol, 4.1 g | CN1C(=CC=C1)C#N | C6H6N2
reactant | triisopropylborate | 38.5 mmol, 8.9 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | lithium diisopropylamide | 45.5 mmol, 22.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 6-bromo-4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 7.0 mmol, 2.0 g | BrC1=CC2=C(NC(OC2(CC)CC)=O)C=C1 | C12H14BrNO2
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 5-(4,4-diethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 1.2 g, 55% | C(C)C1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2C)C#N)=O)CC | C18H19N3O2
